US08975256B2
7-(5-Chloro-2-hydroxyphenyl)-8-hydroxymethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 12-1)
Lithium aluminium hydride (442 mg, 11.7 mmol) was suspended in anhydrous tetrahydrofuran (10 mL) under nitrogen atmosphere. An anhydrous tetrahydrofuran solution (40 mL) of 9-chloro-2,2,4-trimethyl-1,4-dihydro-2H-6-oxa-1,4-diazachrysen-3,5-dione (Reference Compound No. 11-1, 1:99 g, 5.81 mmol) was added dropwise thereto at −10° C. and stirred for 10 minutes at the same temperature. After ethyl acetate (1 mL) and water (1 mL) were added thereto successively, ethyl acetate (300 mL) and saturated brine (300 mL) were added and partitioned. The organic layer was washed with saturated brine (150 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (1.38 g) as a pale yellow solid. (Yield 69%)

reactant | Lithium aluminium hydride | 11.7 mmol, 442 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 9-chloro-2,2,4-trimethyl-1,4-dihydro-2H-6-oxa-1,4-diazachrysen-3,5-dione | 5.81 mmol, 99 g | ClC1=CC=C2OC(C3=C4N(C(C(NC4=CC=C3C2=C1)(C)C)=O)C)=O | C18H15ClN2O3
reactant | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
reactant | water | 1 mL | O | H2O
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | brine | 300 mL | [Cl-].[Na+].O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 7-(5-Chloro-2-hydroxyphenyl)-8-hydroxymethyl-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 1.38 g, Yield 69% | ClC=1C=CC(=C(C1)C1=CC=C2NC(C(N(C2=C1CO)C)=O)(C)C)O | C18H19ClN2O3
